US08685969B2
A solution of benzyl (3-(1-(6-bromo-1H-indol-3-yl)-2-nitropropyl)-2-methylphenyl)carbamate (4.47 g, 8.56 mmol), ammonium chloride (6.87 g, 128 mmol), and zinc dust (8.40 g, 128 mmol) in methanol (100 mL) and tetrahydrofuran (100 mL) was stirred overnight under nitrogen. The reaction was diluted with ethyl acetate and filtered through a pad of CELITE®. The filtrate was concentrated under reduced pressure, and the residue was diluted with ethyl acetate (150 mL), washed with saturated aqueous sodium bicarbonate (70 mL), and washed with brine (70 mL). The organic layer was collected, and the aqueous layers were sequentially extracted with ethyl acetate (2×100 mL). The combined organic layers were dried over anhydrous sodium sulfate and concentrated under reduced pressure to give benzyl (3-(2-amino-1-(6-bromo-1H-indol-3-yl)propyl)-2-methylphenyl)carbamate (4.00 g, 8.12 mmol, 95% yield) as a light brown semi-solid and as a ˜1:1 diastereomers. LC/MS M+1=492.1 and 494.1.

reactant | benzyl (3-(1-(6-bromo-1H-indol-3-yl)-2-nitropropyl)-2-methylphenyl)carbamate | 8.56 mmol, 4.47 g | BrC1=CC=C2C(=CNC2=C1)C(C(C)[N+](=O)[O-])C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C26H24BrN3O4
reactant | ammonium chloride | 128 mmol, 6.87 g | [Cl-].[NH4+]
solvent | methanol | 100 mL | CO | CH4O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 128 mmol, 8.40 g | [Zn] | Zn
product | benzyl (3-(2-amino-1-(6-bromo-1H-indol-3-yl)propyl)-2-methylphenyl)carbamate | 8.12 mmol, 4.00 g, 95% yield | NC(C(C1=CNC2=CC(=CC=C12)Br)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C)C | C26H26BrN3O2
